US04010177
In the manner given in Preparation 10, 6-(trifluoromethyl)-5-(o-fluorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine is reacted with chloroacetyl chloride and after 1.5 hours with sodium acetate, then refluxed to give 1-(chloromethyl)-7-(trifluoromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 6-(trifluoromethyl)-5-(o-fluorophenyl)-3H-1,4-benzodiazepin-2-yl hydrazine | FC(C1=CC=CC2=C1C(=NCC(=N2)NN)C2=C(C=CC=C2)F)(F)F | C16H12F4N4
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 1-(chloromethyl)-7-(trifluoromethyl)-6-(o-fluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)F)C(=CC=C1)C(F)(F)F | C18H11ClF4N4
